US04474754
9(b). Preparation of Z-Asn-Leu-Gln-NHNHBoc
H-Leu-Gln-NHNHBoc obtained in the above-mentioned step 9(a) was dissolved in 30 ml of dimethylformamide, the solution was cooled under stirring condition. On the other hand, 1.61 g of Z-Asn-OH was dissolved in 30 ml of tetrahydrofuran, to this solution 0.62 ml of N-methylmorpholine was added and was cooled to -15° C., then 0.80 ml of isobutyl chloroformate was added dropwise thereto under stirring condition. 30 Seconds after the addition of isobutyl chloroformate, the dimethylformamide solution of H-Leu-Gln-NHNHBoc as prepared previously was added thereto, the whole mixture was stirred at 0° C. for 5 minutes, next at 40° C. for 1 minute in water bath, further at 15° C. for 30 minutes. From the reaction mixture tetrahydrofuran and dimethylformamide were removed by distillation under a reduced pressure, the residue thus obtained was extracted with ethyl acetate. The extract was washed with 1N-citric acid, a saturated aqueous solution of sodium chloride, a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride in this order, then was dried with anhydrous sodium sulfate, and ethyl acetate was removed by distillation. The oily residue obtained was solidified by adding ethyl ehter, reprecipitated from methanol-ethyl acetate to obtain 2.55 g of the desired product.

reactant | Z-Asn-OH | 1.61 g | N([C@@H](CC(N)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C12H14N2O5
reactant | isobutyl chloroformate | 0.80 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | H-Leu-Gln-NHNHBoc | N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)NNC(=O)OC(C)(C)C | C16H31N5O5
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | N-methylmorpholine | 0.62 ml | CN1CCOCC1 | C5H11NO
solvent | water | O | H2O
product | Z-Asn-Leu-Gln-NHNHBoc | 2.55 g | N([C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)NNC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C28H43N7O9
